US07767677B2
Synthesis of (5-fluoro-2-trifluoromethylphenyl)-{4-[5-(5-propyl-4,5-dihydro-1H-imidazol-2-yl)pyridin-2-yl]piperazin-1-yl}methanone
To a stirred solution of 6-[4-(5-fluoro-2-trifluoromethylbenzoyl)piperazin-1-yl]nicotinic acid (0.509 g, 1.281 mmol) in POCl3(10 mL) was added dropwise 1,2-diaminopentane (3.50 g, 34.0 mmol). The resulting mixture was stirred at reflux for 16 h and then allowed to cool to ambient temperature and concentrated. The residue was taken up in saturated NaHCO3 and extracted with dichloromethane. The combined organic layers were dried over Na2SO4 and concentrated. The crude product was purified by chromatography to afford the title compound in 9% yield (0.052 g). 1H NMR (300 MHz, CDCl3) δ 9.09 (d, J=2.2 Hz, 1H), 8.56 (dd, J=2.2, 9.2 Hz, 1H), 7.74 (dd, J=5.1, 8.8 Hz, 1H), 7.22 (d, J=7.8 Hz, 1H), 7.10 (dd, J=2.4, 8.0 Hz, 1H), 6.65 (d, J=9.2 Hz, 1H), 4.32-3.49 (m, 9H), 1.92-0.75 (m, 9H). MS (ES+) m/z 464 (M+1).

reactant | 6-[4-(5-fluoro-2-trifluoromethylbenzoyl)piperazin-1-yl]nicotinic acid | 1.281 mmol, 0.509 g | FC=1C=CC(=C(C(=O)N2CCN(CC2)C2=NC=C(C(=O)O)C=C2)C1)C(F)(F)F | C18H15F4N3O3
reactant | 1,2-diaminopentane | 34.0 mmol, 3.50 g | NCC(CCC)N | C5H14N2
solvent | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | (5-fluoro-2-trifluoromethylphenyl)-{4-[5-(5-propyl-4,5-dihydro-1H-imidazol-2-yl)pyridin-2-yl]piperazin-1-yl}methanone | 9% yield | FC=1C=CC(=C(C1)C(=O)N1CCN(CC1)C1=NC=C(C=C1)C=1NC(CN1)CCC)C(F)(F)F | C23H25F4N5O
